US04924015
300 parts of 98% sulfuric acid, 64 parts of methanol, 71 parts of methyl 5-methylhex-5-enecarboxylate and 53 parts of o-xylene are stirred at room temperature for 3 days and then poured into 2000 parts of water. This is followed by extraction with ether, washing of the extract with water and evaporation of the ether. The residue is dissolved in 500 parts of methanol, one part of p-toluenesulfonic acid, and the mixture is heated under reflux for 6 hours. The methanol is then distilled off, and the residue is taken up in ether and washed first with aqueous sodium bicarbonate and then with water. The ether is evaporated off and the residue is distilled to give methyl 5-(3,4-dimethylphenyl)-5-methylhexanecarboxylate having a boiling point of 176°-182° C./16 mbar.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
reactant | methyl 5-methylhex-5-enecarboxylate | CC(CCCCC(=O)OC)=C | C9H16O2
reactant | o-xylene | CC=1C=CC=CC1C | C8H10
solvent | water | O | H2O
product | methyl 5-(3,4-dimethylphenyl)-5-methylhexanecarboxylate | CC=1C=C(C=CC1C)C(CCCCC(=O)OC)(C)C | C17H26O2
